US08236808B2
Step 2: (2-Amino-ethyl)-{2-[(3,5-diamino-6-chloro-pyrazine-2-carbonyl)-amino]-ethyl}-dimethyl-ammonium bromide
A mixture of {2-[(3,5-diamino-6-chloro-pyrazine-2-carbonyl)-amino]-ethyl}-[2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-ethyl]-dimethyl-ammonium bromide (47 g, 92 mmol) and hydrazine monohydrate (20 mL, 412 mmol) in EtOH (500 mL) is heated at 40° C. for 4 h. After cooling to RT the resulting solid is removed by filtration and washed with diethyl ether. The filtrate is concentrated in vacuo to afford the title product. [M+H]+ 302.

reactant | {2-[(3,5-diamino-6-chloro-pyrazine-2-carbonyl)-amino]-ethyl}-[2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-ethyl]-dimethyl-ammonium bromide | 92 mmol, 47 g | [Br-].NC=1C(=NC(=C(N1)N)Cl)C(=O)NCC[N+](C)(C)CCN1C(C2=CC=CC=C2C1=O)=O
reactant | hydrazine monohydrate | 412 mmol, 20 mL | O.NN
solvent | EtOH | 500 mL | CCO | C2H6O
product | (2-Amino-ethyl)-{2-[(3,5-diamino-6-chloro-pyrazine-2-carbonyl)-amino]-ethyl}-dimethyl-ammonium bromide | [Br-].NCC[N+](C)(C)CCNC(=O)C1=NC(=C(N=C1N)N)Cl | InChI=1S/C11H20ClN7O.BrH/c1-19(2,5-3-13)6-4-16-11(20)7-9(14)18-10(15)8(12)17-7;/h3-6,13H2,1-2H3,(H4-,14,15,16,18,20);1H
